### PR TITLE
feat: bv_normalize pass: AC normalization of multiplication

### PR DESCRIPTION
**Pull request by bollu**
This PR introduces a bitvector associativity/commutativity normalization on bitvector terms of the form `(a * b)  = (c * d)` for `a, b, c, d` bitvectors. This mirrors Bitwuzla's `PassNormalize::process`'s `PassNormalize::normalize_eq_add_mul`.

For example, `x₁ * (y₁ * z) = x₂ * (y₂ * z)` is normalized to `z * (x₁ * y₁) = z * (x₂ * y₂)`,
pulling the shared variable `z` to the front on both sides. The PR also replaces the use of `ac_nf` in the normalization pass of `bv_decide`.

Note that this is based on Bitwuzla's normalizer, and we eventually want to have support for bitvector addition normalization as well. However, since we currently lack a `ring` equivalent for bitvectors, we cannot currently justify rewrites such as `x + x + x → 3 * x`. Similarly, we leave the implementation of `PassNormalize::normalize_comm_assoc`, which is called when the toplevel terms are different for a subsequent patch.

For posterity, we record the precise location in Bitwuzla where the implemented codepath occurs:
```cpp
-- https://github.com/bitwuzla/bitwuzla/blob/d1f1bc2ad3963936d3167afb879867364554cee7/src/preprocess/pass/normalize.cpp#L1550-L1554
        Kind k = cur.kind();
        if (k == Kind::EQUAL && children[0].kind() == children[1].kind()
            && (children[0].kind() == Kind::BV_ADD
                || children[0].kind() == Kind::BV_MUL))
        {
          auto [res, norm] = normalize_eq_add_mul(children[0], children[1]);
          ...
```

### CODE REVIEW

File: src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean [hunk 1]
```diff
@@ -1,39 +1,408 @@
...
+an equality can depend on the right-hand-side, in particular, to expose shared terms.
+
+For example, `x₁ * (y₁ * z) = x₂ * (y₂ * z)` is normalized to
+`z * (x₁ * y₁) = z * (x₂ * y₂)`, pulling the shared variable `z` to the front on
+both sides.
+-/
+def bvAcNfHypTactic (fvarId : FVarId) : TacticM Unit :=
+  liftMetaTactic1 fun goal => bvAcNfHypMeta goal fvarId
+
+def bvAcNormalizePass (maxSteps : Nat) : Pass where
```
Comment (hargoniX) [inline src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean:399]: You are still in the correct monad to get maxSteps within `run'`, there is no need for this parameter.

File: src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean [hunk 2]
```diff
@@ -1,39 +1,408 @@
...
+That is, if `{ common, x', y' } ← SharedCoeffients.compute x y`, then
+  `x[idx] = common[idx] + x'[idx]` and
+  `y[idx] = common[idx] + y'[idx]`
+for all valid variable indices `idx`.
+-/
+def SharedCoefficients.compute (x y : CoefficientsMap) : VarStateM SharedCoefficients := do
+  let swappedXy := x.size > y.size
+  let (x, y) := if swappedXy then (y, x) else (x, y)
+  -- This is O(|x|) = O(min(|x|, |y|)) as we sort by size above.
+  let common : CoefficientsMap := x.fold (init := {}) fun common idx xCnt =>
```
Comment (hargoniX) [inline src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean:210]: Probably no need for type annotations here right?

File: src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean [hunk 3]
```diff
@@ -1,39 +1,408 @@
...
+  -- to ensure a canonical order of variables in the returned expression.
+  -- This is O(|coeff| log |coeff|).
+  let coeffArr := coeff.toArray.qsort (·.fst < ·.fst)
+  let mut acc : Option Expr := none
+  for (var, coeff) in coeffArr do
+    let expr := (← get).varToExpr[var]!
+    for _ in [0:coeff] do
+      acc := match acc with
+        | none => expr
+        | some acc => some <| mkApp2 op.toExpr acc expr
```
Comment (hargoniX) [inline src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean:238]:
```suggestion
      acc := mkApp2 op.toExpr (acc.getD expr) expr
```

File: src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean [hunk 4]
```diff
@@ -1,39 +1,408 @@
...
+    trace[Meta.AC] "Operations mismatch:\
+      the left-hand-side has operation {op}
+        {indentExpr lhs}
+      but the right-hand-side has operation {op'}
+        {indentExpr rhs}"
+    return .continue
+
+  trace[Meta.AC] "Canonicalizing with respect to operation: '{op}' K"
+
+  VarStateM.run' (s:= { op }) do
```
Comment (hargoniX) [inline src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean:299]:
```suggestion
  VarStateM.run' (s := { op }) do
```

File: src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean [hunk 5]
```diff
@@ -1,39 +1,408 @@
...
+    let lCoeff ← computeCoefficients op lhs
+    let rCoeff ← computeCoefficients op rhs
+
+    let ⟨commonCoeff, lCoeff, rCoeff⟩ ← SharedCoefficients.compute lCoeff rCoeff
+    let commonExpr? : Option Expr ← commonCoeff.toExpr op
```
Comment (hargoniX) [inline src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean:304]: Probably also no type annotation necessary here?

File: src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean [hunk 6]
```diff
@@ -1,39 +1,408 @@
...
+    -- of `lCoeff_{old}` are zero iff `lExpr` contains only neutral elements,
+    -- we default to `lNew` being some canonical neutral element if both
+    -- `commonExpr?` and `lNew?` are `none`.
+    let lNew := Option.merge (mkApp2 op.toExpr) commonExpr? lNew? |>.getD op.neutralElement
+    let rNew := Option.merge (mkApp2 op.toExpr) commonExpr? rNew? |>.getD op.neutralElement
+
+    let oldExpr := mkApp2 P lhs rhs
+    let expr := mkApp2 P lNew rNew
+    check oldExpr
+    check expr
```
Comment (hargoniX) [inline src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean:318]: Is there ever a situation where we expect this not to type check? Recall that we are type checking potentially ginormous terms here.

File: src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean [hunk 7]
```diff
@@ -1,39 +1,408 @@
...
+    let proof ← proveEqualityByAC oldExpr expr
+
+    return Simp.Step.continue <| some {
+      expr := expr
+      proof? := some proof
+    }
```
Comment (hargoniX) [inline src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean:324]:
```suggestion
    return .continue <| some { expr := expr, proof? := some proof }
```

**Review by hargoniX — CHANGES_REQUESTED** [review]
Thinking a little more about this, I do wonder whether, given the fact that this is "just" a simproc, we should maybe, instead of having it be its own pass, add this into the rewrite simproc list if the acNf option is enabled? That way we'd get rewriting and normalisation in the same pass over the term.

**Comment by bollu** [comment]
> Thinking a little more about this, I do wonder whether, given the fact that this is "just" a simproc, we should maybe, instead of having it be its own pass, add this into the rewrite simproc list if the acNf option is enabled? That way we'd get rewriting and normalisation in the same pass over the term.

It currently looks like "just" a simproc, since it's *one branch* of the algorithm --- I imagine that as we grab more branches, we'll need the flexibility a `Pass` provides. I'm happy to revisit the decision once we port some more of the full Bitwuzla algorithm.

**Comment by alexkeizer** [comment]
Minor nit: the current PR title suggests this PR is responsible for `bv_normalize`, where it of course only adds a pass to the existing normalizer

File: tests/lean/run/bv_decide_rewriter.lean [hunk 8]
```diff
@@ -583,17 +583,19 @@ example {x : BitVec 8} :
...
   bv_normalize
 
-section
+namespace NormalizeMul
+/- Test examples of the multiplication normalizer -/
 
 example (x y : BitVec 256) : x * y = y * x := by
   bv_decide (config := { acNf := true })
 
-example {x y z : BitVec 64} : ~~~(x &&& (y * z)) = (~~~x ||| ~~~(z * y)) := by
```
[the remark this answers is not in the document]
Comment (bollu) [reply tests/lean/run/bv_decide_rewriter.lean:591]: It should be, because `bv_normalize` does not recurse into subterms to normalize, but rather only normalizes if the *toplevel* term is a multiplication. I can mark it an expected failure if you like, since it should (eventually) work with the full bitwuzla algorithm, If I understand their full algorithm correctly.

[the remark this answers is not in the document]
Comment (hargoniX) [reply tests/lean/run/bv_decide_rewriter.lean:591]: In that case we can comment it out for now, but don't delete it otherwise we'll just forget.

File: src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean (hunk 2 above)
Comment (bollu) [reply src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean:210]: No *need*, but I prefer to keep it for readability.

File: src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean (hunk 5 above)
Comment (bollu) [reply src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean:304]: Once again, no *need*, but I feel it makes the situation slightly clearer :)

File: src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean [hunk 9]
```diff
@@ -1,39 +1,408 @@
...
+    modifyGet fun s =>
+      let nextIndex := s.exprToVarIndex.size
+      (nextIndex, { s with
+        exprToVarIndex := s.exprToVarIndex.insert e nextIndex
+        varToExpr := s.varToExpr.push e
+      })
+where
+  /-- Lookup the index of expression `e` in the monadic state. -/
+  getIndex (e : Expr) : VarStateM (Option VarIndex) := do
+    return (← get).exprToVarIndex[e]?
```
[the remark this answers is not in the document]
Comment (bollu) [reply src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean]: Done in next PR.

File: src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean [hunk 10]
```diff
@@ -1,39 +1,408 @@
...
+-/
+def ofApp2? : Expr → Option Op
+  | mkApp2 op _x _y => ofExpr? op
+  | _ => none
+
+def toExpr : Op → Expr
+  | .mul w =>
+    let bv := BitVec.mkType w
+    let inst := BitVec.mkInstHMul w
+    mkApp4 (mkConst ``HMul.hMul [0, 0, 0]) bv bv bv inst
```
[the remark this answers is not in the document]
Comment (bollu) [reply src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean:71]: I agree. But I'm filling in implicit arguments here. I can switch to `mkAppOptM`, indeed, but I prefer controlling the instance here.

File: src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean [hunk 11]
```diff
@@ -1,39 +1,408 @@
...
+an equality can depend on the right-hand-side, in particular, to expose shared terms.
+
+For example, `x₁ * (y₁ * z) = x₂ * (y₂ * z)` is normalized to
+`z * (x₁ * y₁) = z * (x₂ * y₂)`, pulling the shared variable `z` to the front on
+both sides.
 -/
-def acNormalizePass : Pass where
-  name := `ac_nf
+def bvAcNfTargetTactic : TacticM Unit := do
+  liftMetaTactic1 fun goal => bvAcNfTarget goal
```
[the remark this answers is not in the document]
Comment (bollu) [reply src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean]: Agreed, moved.

File: tests/lean/run/bv_decide_rewriter.lean (hunk 8 above)
[the remark this answers is not in the document]
Comment (bollu) [reply tests/lean/run/bv_decide_rewriter.lean:611]: Done, revived the test.

File: src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean [hunk 12]
```diff
@@ -1,39 +1,408 @@
...
+
+def bvAcNormalizePass (maxSteps : Nat) : Pass where
+  name := `bv_ac_nf
   run' goal := do
     let mut newGoal := goal
     for hyp in (← goal.getNondepPropHyps) do
-      let result ← AC.acNfHypMeta newGoal hyp
-
-      if let .some nextGoal := result then
+      if let .some nextGoal ← bvAcNfHypMeta newGoal hyp maxSteps then
```
[the remark this answers is not in the document]
Comment (bollu) [reply src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean]: We must indeed create intermediate goals, as indeed, this is also what `simp` does when rewriting `hyps` with its higher-level API: 

```lean
-- https://github.com/leanprover/lean4/blob/5e0648fe988ccb6d25f369227daf21d78ce3030c/src/Lean/Meta/Tactic/Simp/Main.lean
def simpGoal (mvarId : MVarId) (ctx : Simp.Context) (simprocs : SimprocsArray := #[]) (discharge? : Option Simp.Discharge := none)
  (simplifyTarget : Bool := true) (fvarIdsToSimp : Array FVarId := #[])
    let mut mvarIdNew := mvarId
    ...
    for fvarId in fvarIdsToSimp do
        ...
        mvarIdNew ← mvarIdNew.replaceLocalDeclDefEq fvarId r.expr
    ...
    return (some (fvarIdsNew, mvarIdNew), stats)
```

Unfortunately, we can't use the higher-level API, since we want to hook a [`Simp.Method`](https://github.com/leanprover/lean4/blob/5e0648fe988ccb6d25f369227daf21d78ce3030c/src/Lean/Meta/Tactic/Simp/Types.lean#L390-L395), which the higher-level API doesn't seem to expose. 

We follow what the AC pass does:

```lean
-- https://github.com/leanprover/lean4/blob/5e0648fe988ccb6d25f369227daf21d78ce3030c/src/Lean/Meta/Tactic/AC/Main.lean#L206-L214
def acNfHypMeta (goal : MVarId) (fvarId : FVarId) : MetaM (Option MVarId) := do
  goal.withContext do
    let simpCtx ← Simp.mkContext
      (simpTheorems  := {})
      (congrTheorems := (← getSimpCongrTheorems))
      (config        := Simp.neutralConfig)
    let tgt ← instantiateMVars (← fvarId.getType)
    let (res, _) ← Simp.main tgt simpCtx (methods := { post })
    return (← applySimpResultToLocalDecl goal fvarId res false).map (·.snd)
```

[the remark this answers is not in the document]
Comment (bollu) [reply src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize/AC.lean]: Done, I've added a cache!
